US04816447
9-(1-Hydroxy-3-octanoyloxy-2-propoxymethyl)guanine
A suspension of 410 mg (1.5 mmole) of 9-(1,3-dihydroxy-2-propoxymethyl)guanine monohydrate in 6 ml of dry dimethylformamide and 1.5 ml of dry pyridine was stirred under a drying tube with cooling in an ice bath as a solution of 489 mg (3.0 mmole) of octanoyl chloride in 1.5 ml of dimethylformamide was added dropwise by syringe over approximately 5 minutes. The mixture was allowed to warm gradually to room temperature, and after 24 hours it was concentrated under high vacuum. The residual oil was purified by preparative TLC on nine 1000-μ silica gel plates (developed in 5:1 CHCl3 --MeOH). The product bands were isolated, combined, and extracted with dimethylformamide. Concentration of the extracts under high vacuum gave a gummy residue. Crystallization from isopropanol gave a material which again turned gummy on the filter. However, thorough trituration with ether yielded 105 mg (18%) of very pale yellow crystals, m.p. 201.5°-203.5°.

reactant | 9-(1,3-dihydroxy-2-propoxymethyl)guanine monohydrate | 1.5 mmole, 410 mg | O.OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N
reactant | octanoyl chloride | 3.0 mmole, 489 mg | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 9-(1-Hydroxy-3-octanoyloxy-2-propoxymethyl)guanine | OCC(COC(CCCCCCC)=O)OCN1C=2N=C(NC(C2N=C1)=O)N | C17H27N5O5
